US07410976B2
1′-[(4,8-dimethoxyquinolin-2-yl)carbonyl]-6-pyridin-3-yl-spiro[chroman-2,4′-piperidin]-4-one
6-Bromo-1′-[(4,8-dimethoxyquinolin-2-yl)carbonyl]spiro[chroman-2,4′-piperidin]-4-one (200 mg), pyridine-3-boronic acid-1′,3′-propanediol cyclic ester (76.6 mg) and Pd(PPh3)4 (45.2 mg) were suspended in a mixture of 1,4-dioxane (1.6 mL) and aqueous 2 M sodium carbonate solution (0.8 mL), and heated under reflux at 110° C. for 12 hours. The reaction solution was partitioned between ethyl acetate and water, extracted with ethyl acetate, washed with saturated brine, and dried with magnesium sulfate. The desiccant was removed through filtration, the filtrate was concentrated under reduced pressure, and the resulting residue was purified through thin-layer chromatography (chloroform/methanol=95/5) to obtain the intended compound. 1H-NMR (300 MHz, CDCl3) δ: 8.83 (1H, d, J=1.7 Hz), 8.59 (1H, dd, J=4.8, 1.7 Hz), 8.10 (1H, d, J=2.4 Hz), 7.82-7.90 (1H, m), 7.77 (1H, m), 7.76 (1H, d, J=8.6, 2.4 Hz), 7.47 (1H, dd, J=8.2, 7.8 Hz), 7.36 (1H, dd, J=7.8, 4.8 Hz), 7.19 (1H, s), 7.15 (1H, d, J=8.6 Hz), 7.08 (1H, d, J=7.8 Hz), 4.55-4.65 (1H, m), 4.10-4.25 (1H, m), 4.08 (3H, s), 4.03 (3H, s), 3.55-3.70 (1H, m), 3.30-3.45 (1H, m), 2.87 (1H, d, J=16.7 Hz), 2.80 (1H, d, J=16.7 Hz), 2.20-2.30 (1H, m), 2.05-2.20 (1H, m), 1.80-2.00 (2H, m). MS [M]+=509.

reactant | 6-Bromo-1′-[(4,8-dimethoxyquinolin-2-yl)carbonyl]spiro[chroman-2,4′-piperidin]-4-one | 200 mg | BrC=1C=C2C(CC3(CCN(CC3)C(=O)C3=NC4=C(C=CC=C4C(=C3)OC)OC)OC2=CC1)=O | C25H23BrN2O5
reactant | sodium carbonate | 2 M, 0.8 mL | C([O-])([O-])=O.[Na+].[Na+]
solvent | 1,4-dioxane | 1.6 mL | O1CCOCC1 | C4H8O2
catalyst | Pd(PPh3)4 | 45.2 mg | C=1C=CC(=CC1)[P](C=2C=CC=CC2)(C=3C=CC=CC3)[Pd]([P](C=4C=CC=CC4)(C=5C=CC=CC5)C=6C=CC=CC6)([P](C=7C=CC=CC7)(C=8C=CC=CC8)C=9C=CC=CC9)[P](C=1C=CC=CC1)(C=1C=CC=CC1)C=1C=CC=CC1
product | 1′-[(4,8-dimethoxyquinolin-2-yl)carbonyl]-6-pyridin-3-yl-spiro[chroman-2,4′-piperidin]-4-one | COC1=CC(=NC2=C(C=CC=C12)OC)C(=O)N1CCC2(CC1)OC1=CC=C(C=C1C(C2)=O)C=2C=NC=CC2 | C30H27N3O5
